US07435823B2
Step (b) Preparation of N-(7-((6,7-bis(methoxy)-4-quinolinyl)oxy)-2-naphthalenyl)-4-chlorobenzamide
To a solution of 7-(6,7-dimethoxyquinolin-4-yloxy)naphthalen-2-amine (0.110 g, 0.31 mmol) in 10 mL of CH2Cl2 was added K2CO3 (0.086 g, 0.62 mmol). The mixture was cooled to 0° C. and 4-chlorobenzoyl chloride (44 mL, 0.34 mmol) was added. The solution was stirred for 16 h and allowed to gradually warm up to RT. The reaction was diluted with water and extracted with EtOAc 3×. The organic layer was dried (Na2SO4), filtered and concentrated. The residue was purified using a Gilson Prep HPLC system. The fractions were collected, combined, and extracted with EtOAc 3×. The organic layer was dried (Na2SO4), filtered and concentrated to afford the desired compound. MS (ESI, pos. ion) m/z: 485.0 (M+1). Mass Calc'd for C28H21ClN2O4: 484.937.

reactant | 7-(6,7-dimethoxyquinolin-4-yloxy)naphthalen-2-amine | 0.31 mmol, 0.110 g | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C2C=CC(=CC2=C1)N | C21H18N2O3
reactant | K2CO3 | 0.62 mmol, 0.086 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chlorobenzoyl chloride | 0.34 mmol, 44 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(7-((6,7-bis(methoxy)-4-quinolinyl)oxy)-2-naphthalenyl)-4-chlorobenzamide | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C2C=CC(=CC2=C1)NC(C1=CC=C(C=C1)Cl)=O | C28H21ClN2O4
